US09284284B2
a) [Bis-(4-methoxy-phenyl)-phenyl-methyl]-[(2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-amine
To a solution of (2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (500 mg, 1.35 mmol, CAS registry 1387561-18-3, WO 2012/095469) in DCM (13.5 ml) was added DMTr-Cl (0.481 g, 1.418 mmol) and triethylamine (0.374 ml, 2.70 mmol), the reaction mixture was stirred under argon at rt for 18 h. The reaction mixture was washed with NaHCO3 saturated aqueous solution and brine. The organic layers were backextracted with DCM. The combined organic layer were dried with Na2SO4. The residue was purified by chromatography (eluent: CyHex/EtOAc gradient) to afford the title compound.

reactant | (2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 1.35 mmol, 500 mg | BrC1=CC=C(C(=N1)[C@]1(N=C([C@@](OC1)(C(F)(F)F)C)N)C)F | C12H12BrF4N3O
reactant | DMTr-Cl | 1.418 mmol, 0.481 g | C(C1=CC=C(OC)C=C1)(C1=CC=C(OC)C=C1)(C1=CC=CC=C1)Cl | C21H19ClO2
reactant | triethylamine | 2.70 mmol, 0.374 ml | C(C)N(CC)CC | C6H15N
solvent | DCM | 13.5 ml | C(Cl)Cl | CH2Cl2
product | [Bis-(4-methoxy-phenyl)-phenyl-methyl]-[(2R,5R)-5-(6-bromo-3-fluoro-pyridin-2-yl)-2,5-dimethyl-2-trifluoromethyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-amine | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1[C@@](OC[C@@](N1)(C)C1=NC(=CC=C1F)Br)(C(F)(F)F)C | C33H30BrF4N3O3
